US07189851B2
B. Allyl (2Z)-3-amino-4-(4-fluorophenyl)-2-butenoate
Allyl 4-(4-fluorophenyl)-3-oxobutanoate (47 g, 198.95 mmol) and ammonium acetate (46.00 g, 596.85 mmol) were refluxed in benzene (250 mL) for 2 h with azeotropic removal of H2O and then cooled and concentrated. The residue was redissolved in Et2O and the organics washed with 1N HCl (2×), H2O, brine, and then dried (Na2SO4), filtered and concentrated to give 47 g (100% yield) of the title compound as a yellow oil. 1H NMR (CDCl3, 400 MHz) δ 7.17 (dd, J=8.4, 5.2 Hz, 2H), 6.99 (t, J=8.6 Hz, 2H), 5.28 (dd, J=17.2, 1.6 Hz, 1H), 5.18 (dd, J=10.3, 1.0 Hz, 1H), 4.61 (s, 1H), 4.55 (d, J=5.6 Hz, 2H), 3.41 (s, 2H).

reactant | Allyl 4-(4-fluorophenyl)-3-oxobutanoate | 198.95 mmol, 47 g | FC1=CC=C(C=C1)CC(CC(=O)OCC=C)=O | C13H13FO3
reactant | ammonium acetate | 596.85 mmol, 46.00 g | C(C)(=O)[O-].[NH4+]
reactant | H2O | O | H2O
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
product | Allyl (2Z)-3-amino-4-(4-fluorophenyl)-2-butenoate | 47 g, 100% yield | N\C(=C/C(=O)OCC=C)\CC1=CC=C(C=C1)F | C13H14FNO2
